2149-12-02 07:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2149-12-1**] 08:25 AM
 BLOOD CULTURED - At [**2149-12-1**] 09:30 AM
   from HD catheter
 EEG - At [**2149-12-1**] 01:30 PM
   > GI bleed (neg NG lavage)
   Allergies:
   Ampicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2149-12-1**] 07:58 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-12-1**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-2**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 90 (90 - 116) bpm
   BP: 102/77(82) {86/38(52) - 128/81(161)} mmHg
   RR: 9 (9 - 15) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
           Total In:
                                                                  2,760 mL
                                                                  1,010 mL
   PO:
           TF:
   IVF:
                                                                    453 mL
                                                                     60 mL
   Blood products:
                                                                  1,968 mL
                                                                    860 mL
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,760 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition no oral lesions (difficult to
   get patient to open mouth, no penile lesions)
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm with progressive confluent mac pap rash (blanches) over
   torso, abd, back and legs, markedly increased as compared to yesterday
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, minimally improved MS  from yesterday.
   Labs / Radiology
   9.5 g/dL
   67 K/uL
   124 mg/dL
   5.5 mg/dL
   25 mEq/L
   4.1 mEq/L
   33 mg/dL
   99 mEq/L
   137 mEq/L
   27.3 %
   7.7 K/uL
        [image002.jpg]
                            [**2149-12-1**]  04:48 AM
                            [**2149-12-1**]  04:52 AM
                            [**2149-12-1**]  04:58 PM
                            [**2149-12-1**]  08:50 PM
                            [**2149-12-2**]  12:59 AM
   WBC
   8.3
   8.6
   7.7
   Hct
   28.4
   26.5
   27.3
   Plt
   89
   51
   70
   67
   Cr
   5.5
   TCO2
   27
   Glucose
   124
   Other labs: PT / PTT / INR:17.6/39.4/1.6, ALT / AST:[**12-5**], Alk Phos / T
   Bili:62/1.7, Lactic Acid:4.0 mmol/L, Albumin:3.0 g/dL, LDH:247 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   CXR  [**12-2**]: small lung vols, poor quality film with IJ and OG in good
   position.
   Assessment and Plan
   62 yo male with hx of EtOH cirrhsosis with acute change in mental
   status found to have 1 cm right parietal hemorrhage from a previous
   baseline which was A+O x 3 although it seems unlikely that the bleed is
   the source of altered MS [**First Name (Titles) 1327**] [**Last Name (Titles) 2854**] encephalopathy and renal
   failure as well as developing GI bleed.
   > ALTERED MENTAL STATUS: multiple etiologies with right parietal bleed
   1cm known and : toxic-metabolic (infection new SBP, cellulitis, bleed,
   renal failure), encephalopathy and sub-clinical status are all
   possible.  Less likely but possible would include a
   encephalitis/meningitis. His clinical picture is also complicated now
   by GI bleed.
   - Goal plts>50 INR < 1.5
   - EEG  f/u read today and d/w with neurology.
   -  Place NG tube
   - Cont keppra therapy
   - cont thiamine, folate
   > GI bleed: drop in HCT with dark stools and inappropriate response to
   transfusion with neg lavage (was started on octreotide  empirically)
   with no hemodynamic instability. Will discuss further workup with GI.
   He does have a hx of recent polypectomy whch may be the source of the
   bleeding.
   - Transfuse to keep  Hct > 30, INR < 1.5 and Plts >50
   > Rash: the rash is c/w a a drug rash and pre-dates the dosing of the
   keppra and the Abx. He does have a hx of drug rash rxn to amoxicillin.
   We will stop the pip-tazo today. This could also be a mixed picture of
   drug rash and cellulitis. Another suspect would be Keppra (rash in 2%of
   cases) will stop if EEg neg.
 HYPOXEMIA:  has a baseline hypoxemia likely [**2-8**] functional splinting
   and baseline atelectasis at the lung bases
   - Supportive O2 at present
   - HOB elevation
 INTRACEREBRAL HEMORRHAGE (ICH): treatment as above, appreciate
   neurosug input, for now conserve management with INR and platelets
   targets as above.
 CIRRHOSIS OF LIVER, ALCOHOLIC: no evidence of SBP by labs. No varices
   by EGD on [**11-25**].  Increasing total bilirubin this AM unclear if this is
   [**2-8**] GU bleed.
   - check direct bili, check hapto and periph smear.
   - NG tube
   - lactulose and rifax
 RENAL FAILURE: presumably 2/2 HRS now on HD. Possible HD today and
   cont phos binders.
  Infection: no SBP based on paracentesis but the area of abd erythema
   is increasing ? cellulitis, it seems wise to cover broadly with Vanco
   and Pip-tazo (recent abdominal surgery) however his rash increasing
   with pip-tazo and hx of amox and low susp for GNR component of
   cellulitis.
   - Treat cellulitis with Vanc and stop the pip tazo.
   ICU Care
   Nutrition:
   Comments: tube feed
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2149-12-1**] 05:01 AM
   PICC Line - [**2149-12-1**] 05:02 AM
   Dialysis Catheter - [**2149-12-1**] 05:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes; patient is critically ill

2149-12-02 07:49:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
 EKG - At [**2149-12-1**] 08:25 AM
 BLOOD CULTURED - At [**2149-12-1**] 09:30 AM
   from HD catheter
 EEG - At [**2149-12-1**] 01:30 PM
   - Neuro recs: LP deferred, rec only if other workup nonrevealing (EEG,
   infection workup etc); also recommended MRA/MRV/MRI in near future, not
   yet done.
   - NGT placed, lactulose reinitiated and increased to 45 QID.
   - Vanc and zosyn started for concern of cellulitis over abdomen.
   - Rash of extremities and trunk seems to be worsening (started before
   vanc/zosyn, ?before keppra).
   - ~5pm - passed maroon stool; liver aware and evaluated.  NGL negative
   for blood.  Liver recommended octreotide, IV BID PPI, likely scope in
   AM.  Transfused 2 units PRBCs, bag platelets, 2 FFP; also gave DDAVP.
   Hct did not bump appropriately (one point increase after 2 units), 2
   more units given.
   Allergies:
   Ampicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2149-12-1**] 07:58 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-12-1**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-2**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 90 (90 - 116) bpm
   BP: 102/65(73) {86/38(52) - 128/81(161)} mmHg
   RR: 7 (7 - 15) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
           Total In:
                                                                  2,760 mL
                                                                  1,015 mL
   PO:
           TF:
   IVF:
                                                                    453 mL
                                                                     64 mL
   Blood products:
                                                                  1,968 mL
                                                                    860 mL
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,760 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General: still poorly responsive though ?better
 repeating
ouch
   HEENT: pupils equal and reactive.
   Chest: CTA bilat with decrease at bases.
   Heart: Regular, S1 S2
   Abdomen: soft, NT.  Distension unchanged.  + ascites, slightly tense
   (no significant change).
   Extrem: Gross [**2-9**]+ edema/anasarca.  Resistant to movement of UE and
   LE.  Toes still upgoing.
   Skin diffuse maculopapular blanching erythematous rash over abdomen
   (appears less like cellulitis and more like drug rash); also over
   proximal UEs and LEs.  Worsened/more extensive compared to yesterday.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Neurologic: as above.
   Labs / Radiology
   65 K/uL
   11.3 g/dL
   119 mg/dL
   4.7 mg/dL
   29 mEq/L
   3.7 mEq/L
   29 mg/dL
   103 mEq/L
   143 mEq/L
   32.1 %
   8.1 K/uL
        [image002.jpg]
                            [**2149-12-1**]  04:48 AM
                            [**2149-12-1**]  04:52 AM
                            [**2149-12-1**]  04:58 PM
                            [**2149-12-1**]  08:50 PM
                            [**2149-12-2**]  12:59 AM
                            [**2149-12-2**]  05:38 AM
   WBC
   8.3
   8.6
   7.7
   8.1
   Hct
   28.4
   26.5
   27.3
   32.1
   Plt
   89
   51
   70
   67
   65
   Cr
   5.5
   4.7
   TCO2
   27
   Glucose
   124
   119
   Other labs: PT / PTT / INR:18.0/39.4/1.6, ALT / AST:14/33, Alk Phos / T
   Bili:61/5.0, Differential-Neuts:77.2 %, Lymph:13.6 %, Mono:5.8 %,
   Eos:3.2 %, Lactic Acid:4.0 mmol/L, Albumin:2.8 g/dL, LDH:257 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   62 yo male with alcoholic cirrhosis, s/p repair of liver laceration,
   now with hepatorenal syndrome, worsening despite medical treatment
   undergoing workup for transplantation, now transferred to MICU after
   worsened mental status work-up revealed parietal bleed and
   non-convulsive status epilepticus.
   .
   # neuro/altered mental status - +parietal bleed, infection (although
   all data (-), save ?cellulitis on abdomen), hepatic encephalopathy
   (especially now that GI bleeding).  Overall, multifactorial, etiology
   of bleed currently unknown.  Neuro and neurosurg consulted, no
   indication for OR, reversing platelet and coagulopathy issues in
   interim.
   - keep plat >50K
   - keep INR <1.5 as able.
   - f/u neuro recs re: EEG read, ?repeat imaging, possible MRI and
   timing.
   - continue keppra for now.
   - continue Lactulose (will increase), rifaxamin.
   .
   # GI bleed.  Continues to put out maroon stool.  Liver recs overnight
   to increase [**Hospital1 **] PPI, octreotide gtt.  ?EGD
NGL negative now x2.
   ?lower source
 had polypectomy with last colonoscopy.  Hemodynamically
   stable, though requiring 4 units in 24 hours and continues to have
   bloody output.
   -          liver recs.  ?EGD or colonoscopy.  ?bleeding scan or other
   workup.
   -          On antibiotics (sbp ppx during bleed).
   -          Continue octreotide and PPI for now.
   -          Blood product support prn.
   .
   # Rash.  Appearing like drug rash. ?new meds (believe that it was there
   prior to initiation of zosyn, vanco, and keppra).  No other new
   exposures, but certainly appears worse compared to yesterday
   (?worsening with start of the above meds).
   -          d/c zosyn.
   -          Monitor skin and mucous membranes closely.
   .
   # hypoxemia: pt noted to be hypoxic high 80's with ambulation during
   hospitalization, TEE showed 1 bubble in 20 cardiac cycles, c/w small
   pulmonary AV shunt; PFTs showed restrictive pattern.  Pulm c/s thought
   [**2-8**] V/Q mismatch [**2-8**] small lung volumes from large ascites.
   - CXR  repeat (poor quality)
   - fluid removal with HD per renal, as hemodynamics allow . consider
   therapeutic tap if ascites contributing.
   .
   # renal failure/hepatorenal:  now HD-dependant, renal US (-),
   presumably hepatorenal.  Midodrine and octreotide trial dc'ed due to
   limited improvement in renal failure.
   - renal recs
   - cont sevelamer/nephrocaps
   # liver failure: decompensated etoh cirrhosis, +hepatorenal syndrome.
   Underwent 5.8L thera paracentesis [**11-22**], CT colonography showed 1.1 cm
   flat lesion in transverse colon; 2nd colonscopy showed polyp in
   transverse colon, s/p polypectomy.  TEE [**11-28**] showed pulm AV shunt.
   - f/u polyp biopsy
   - cont lactulose/rifaximin
   - NPO, will need nutrition long term; pt has refused feeding tube
   - new bilirubin elevation - ?liver related vs. hemolysis or other heme
   breakdown.  Check direct bili, hapto, peripheral smear.
   ICU Care
   Nutrition: NPO for now, ?start of tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-12-1**] 05:01 AM
   PICC Line - [**2149-12-1**] 05:02 AM
   Dialysis Catheter - [**2149-12-1**] 05:05 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2149-12-03 07:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > hct stable
   Allergies:
   Ampicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2149-12-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-12-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-3**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 87 (87 - 97) bpm
   BP: 111/68(78) {95/54(64) - 134/100(107)} mmHg
   RR: 13 (7 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
           Total In:
                                                                  2,392 mL
                                                                  1,250 mL
   PO:
           TF:
   IVF:
                                                                    420 mL
                                                                     60 mL
   Blood products:
                                                                  1,442 mL
                                                                  1,100 mL
   Total out:
                                                                  1,300 mL
                                                                    970 mL
   Urine:
   70 mL
   NG:
   Stool:
   900 mL
   Drains:
   Balance:
                                                                  1,092 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished:
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, mac-pap rash over abd and torso/legs
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, A+O x 2 much improved from yesterday
   Labs / Radiology
   11.6 g/dL
   65 K/uL
   122 mg/dL
   5.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   36 mg/dL
   105 mEq/L
   145 mEq/L
   33.2 %
   7.8 K/uL
        [image002.jpg]
                            [**2149-12-1**]  04:48 AM
                            [**2149-12-1**]  04:52 AM
                            [**2149-12-1**]  04:58 PM
                            [**2149-12-1**]  08:50 PM
                            [**2149-12-2**]  12:59 AM
                            [**2149-12-2**]  05:38 AM
                            [**2149-12-2**]  03:55 PM
                            [**2149-12-2**]  08:08 PM
                            [**2149-12-3**]  01:52 AM
   WBC
   8.3
   8.6
   7.7
   8.1
   7.1
   7.7
   7.8
   Hct
   28.4
   26.5
   27.3
   32.1
   31.9
   32.3
   33.2
   Plt
   89
   51
   70
   67
   65
   69
   71
   65
   Cr
   5.5
   4.7
   5.5
   TCO2
   27
   Glucose
   124
   119
   122
   Other labs: PT / PTT / INR:17.9/37.1/1.6, CK / CKMB / Troponin-T:127//,
   ALT / AST:13/36, Alk Phos / T Bili:57/3.2, Differential-Neuts:77.2 %,
   Lymph:13.6 %, Mono:5.8 %, Eos:3.2 %, Fibrinogen:186 mg/dL, Lactic
   Acid:4.0 mmol/L, Albumin:2.8 g/dL, LDH:253 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   62 yo male with hx of EtOH cirrhosis with acute change in mental status
   found to have 1 cm right parietal hemorrhage from a previous baseline
   which was A+O x 3 although it seems unlikely that the bleed is the
   source of altered MS [**First Name (Titles) 1327**] [**Last Name (Titles) 2854**] encephalopathy and renal failure as
   well as developing GI bleed.
   > ALTERED MENTAL STATUS: multiple etiologies with right parietal bleed
   1cm known and : toxic-metabolic (infection new SBP, cellulitis, bleed,
   renal failure), encephalopathy and sub-clinical status are all
   possible.  Less likely but possible would include a
   encephalitis/meningitis. His clinical picture is also complicated now
   by GI bleed.  He has continued to improve, will f/u read of the EEG and
   if negative EEG will stop keppra.
   - Goal plts>50 INR < 1.5
   - EEG  f/u read today and d/w with neurology.
   -  Re-Place NG tube
   - Cont keppra therapy
   - cont thiamine, folate
   > GI bleed: drop in HCT with dark stools and inappropriate response to
   transfusion with neg lavage (was started on octreotide  empirically)
   with no hemodynamic instability. Will discuss further workup with GI.
   He does have a hx of recent polypectomy whch may be the source of the
   bleeding, he remains hemo stable and the stool out put is less maroon
   - Transfuse to keep  Hct > 30, INR < 1.5 and Plts >50
   - Will d/w with liver service stopping the octreotide
   > Rash: the rash is c/w a a drug rash and pre-dates the dosing of the
   keppra and the Abx. He does have a hx of drug rash rxn to amoxicillin.
   We will stop the pip-tazo today. This could also be a mixed picture of
   drug rash and cellulitis. Another suspect would be Keppra (rash in 2%of
   cases) will stop if EEg neg.
 HYPOXEMIA:  has a baseline hypoxemia likely [**2-8**] functional splinting
   and baseline atelectasis at the lung bases
   - Supportive O2 at present
   - HOB elevation
 INTRACEREBRAL HEMORRHAGE (ICH): treatment as above, appreciate
   neurosug input, for now conserve management with INR and platelets
   targets as above.
 CIRRHOSIS OF LIVER, ALCOHOLIC: no evidence of SBP by labs. No varices
   by EGD on [**11-25**].  Increasing total bilirubin this AM unclear if this is
   [**2-8**] GU bleed.
   - check direct bili, check hapto and periph smear.
   - NG tube
   - lactulose and rifax
   - discuss with liver re: therapeutic paracentesis
 RENAL FAILURE: presumably 2/2 HRS now on HD. Possible HD today and
   cont phos binders.
  Infection: no SBP based on paracentesis but the area of abd erythema
   is increasing ? cellulitis, covering with only Vanco for cellulitis.
   No indication for SBP treatment
   - Treat cellulitis with Vanc  for 7 day course
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-12-1**] 05:01 AM
   PICC Line - [**2149-12-1**] 05:02 AM
   Dialysis Catheter - [**2149-12-1**] 05:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2149-12-03 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Ampicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2149-12-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-12-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-3**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 87 (87 - 97) bpm
   BP: 111/68(78) {95/54(64) - 134/100(107)} mmHg
   RR: 13 (7 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
           Total In:
                                                                  2,392 mL
                                                                  1,250 mL
   PO:
           TF:
   IVF:
                                                                    420 mL
                                                                     60 mL
   Blood products:
                                                                  1,442 mL
                                                                  1,100 mL
   Total out:
                                                                  1,300 mL
                                                                    970 mL
   Urine:
   70 mL
   NG:
   Stool:
   900 mL
   Drains:
   Balance:
                                                                  1,092 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   65 K/uL
   11.6 g/dL
   122 mg/dL
   5.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   36 mg/dL
   105 mEq/L
   145 mEq/L
   33.2 %
   7.8 K/uL
        [image002.jpg]
                            [**2149-12-1**]  04:48 AM
                            [**2149-12-1**]  04:52 AM
                            [**2149-12-1**]  04:58 PM
                            [**2149-12-1**]  08:50 PM
                            [**2149-12-2**]  12:59 AM
                            [**2149-12-2**]  05:38 AM
                            [**2149-12-2**]  03:55 PM
                            [**2149-12-2**]  08:08 PM
                            [**2149-12-3**]  01:52 AM
   WBC
   8.3
   8.6
   7.7
   8.1
   7.1
   7.7
   7.8
   Hct
   28.4
   26.5
   27.3
   32.1
   31.9
   32.3
   33.2
   Plt
   89
   51
   70
   67
   65
   69
   71
   65
   Cr
   5.5
   4.7
   5.5
   TCO2
   27
   Glucose
   124
   119
   122
   Other labs: PT / PTT / INR:17.9/37.1/1.6, CK / CKMB / Troponin-T:127//,
   ALT / AST:13/36, Alk Phos / T Bili:57/3.2, Differential-Neuts:77.2 %,
   Lymph:13.6 %, Mono:5.8 %, Eos:3.2 %, Fibrinogen:186 mg/dL, Lactic
   Acid:4.0 mmol/L, Albumin:2.8 g/dL, LDH:253 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 HYPOXEMIA
 INTRACEREBRAL HEMORRHAGE (ICH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-12-1**] 05:01 AM
   PICC Line - [**2149-12-1**] 05:02 AM
   Dialysis Catheter - [**2149-12-1**] 05:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:PPI
   VAP:  HOB
   Comments:
   Communication:  Comments:  family updated
   Code status: Full code
   Disposition: Call Out to floor in the afternoon

2149-12-03 13:10:00 Physician Resident Progress Note
Chief Complaint: delirium, acute GI blood loss anemia
   24 Hour Events:
   -Delirium slowly improving
   -NG tube came out overnight, so hasn't received any PO meds yet today
   -Received a total of 2 units FFP, and 1 bag platelets over the past 24+
   hours
   -Pip/tazo discontinued due to concern for drug rash; rash significantly
   improved
   -Stool becoming more brown
   Allergies:
   Ampicillin
   Nausea/Vomiting
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2149-12-2**] 08:00 AM
   Vancomycin - [**2149-12-3**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-12-3**] 08:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2149-12-3**] 12:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 92 (83 - 97) bpm
   BP: 92/72(77) {92/54(64) - 134/100(107)} mmHg
   RR: 12 (8 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
           Total In:
                                                                  2,392 mL
                                                                  1,492 mL
   PO:
           TF:
   IVF:
                                                                    420 mL
                                                                    302 mL
   Blood products:
                                                                  1,442 mL
                                                                  1,100 mL
   Total out:
                                                                  1,300 mL
                                                                  2,758 mL
   Urine:
   158 mL
   NG:
   Stool:
   900 mL
   Drains:
   Balance:
                                                                  1,092 mL
                                                                 -1,266 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, opening eyes and responding
   appropriately to some commands
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, midline
   incision intact
   Skin:  Not assessed, Rash: abdominal/leg macular rash improving
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): self, place ([**Hospital1 2903**]), Movement: Not assessed, Tone:
   Not assessed, lethargic
   Labs / Radiology
   105 K/uL
   11.6 g/dL
   122 mg/dL
   5.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   36 mg/dL
   105 mEq/L
   145 mEq/L
   33.2 %
   7.8 K/uL
        [image002.jpg]
                            [**2149-12-1**]  04:48 AM
                            [**2149-12-1**]  04:52 AM
                            [**2149-12-1**]  04:58 PM
                            [**2149-12-1**]  08:50 PM
                            [**2149-12-2**]  12:59 AM
                            [**2149-12-2**]  05:38 AM
                            [**2149-12-2**]  03:55 PM
                            [**2149-12-2**]  08:08 PM
                            [**2149-12-3**]  01:52 AM
                            [**2149-12-3**]  06:40 AM
   WBC
   8.3
   8.6
   7.7
   8.1
   7.1
   7.7
   7.8
   Hct
   28.4
   26.5
   27.3
   32.1
   31.9
   32.3
   33.2
   Plt
   89
   51
   70
   67
   65
   69
   71
   65
   105
   Cr
   5.5
   4.7
   5.5
   TCO2
   27
   Glucose
   124
   119
   122
   Other labs: PT / PTT / INR:17.9/37.1/1.6, CK / CKMB / Troponin-T:127//,
   ALT / AST:13/36, Alk Phos / T Bili:57/3.2, Differential-Neuts:77.2 %,
   Lymph:13.6 %, Mono:5.8 %, Eos:3.2 %, Fibrinogen:186 mg/dL, Lactic
   Acid:4.0 mmol/L, Albumin:2.8 g/dL, LDH:253 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Imaging: CXR: low lung volumes; film does not completely visualize left
   lung field; tunnelled HD line in place
   Assessment and Plan
   62 year old man with alcoholic cirrhosis, CKD on HD from hepatorenal
   syndrome, recent hemoperitoneum from traumatic liver biopsy requiring
   ex-lap, admitted with delirium and GI blood loss.
   1.       Delirium; likely multifactorial from hepatic encephalopathy,
   infection (abdominal cellulitis), small parietal bleed, and ?
   nonconvulsive status epilepticus
   - will replace NG tube for administration of lactulose and rifaximin to
   treat hepatic encephalopathy
   - cont levetiracetam; follow up with neuro about EEG results
   - MRI/MRA of brain when stable to evaluate parietal hemorrhage; no
   urgent need to perform since mental status is improving and it will not
   change acute mgmt
   2.       Acute blood loss anemia from GI bleed; hemodynamically stable;
   no pRBCs needed in past 24 hrs; likely post-polypectomy bleed
   - cont to monitor [**Hospital1 **] Hct
   - no scope at this time since he seems to have stabilized and etiology
   likely post-polypectomy
   - d/c octreotide since no esophageal varices
   - goal plts >75k, INR<1.5
   3.       Hypoxemia; etiology somewhat unclear, though abdominal
   distension/low lung volumes likely contributing; small pulm AV shunting
   also seen on TTE
   - will discuss value of therapeutic large volume paracentesis with
   hepatology to help improve breathing mechanics
   4.       Abdominal cellulitis
   - improved with vancomycin; cont for 10 day course
   5.       Rash; improved since stopping pip/tazo supporting the notion
   of drug rash
   - cont to monitor
   6.       CKD V secondary to hepatorenal syndrome
   - renal input appreciated
   ICU Care
   Nutrition:  consider tube feeds once NG tube is replaced
   Glycemic Control:  n/a
   Lines: PIV
   PICC Line - [**2149-12-1**] 05:02 AM
   Dialysis Catheter - [**2149-12-1**] 05:05 AM
   Prophylaxis:
   DVT: pneumoboots (no heparin given recent GI bleeding)
   Stress ulcer: ppi
   Communication:  Comments: with brother; with patient
   Code status: Full code
   Disposition: ICU ; will be able to be called out once mental status
   improves

2149-12-04 07:49:00 Physician Resident Progress Note
Chief Complaint: delirium, GI blood loss anemia
   24 Hour Events:
   - NG tube replaced and lactulose/rifaximin continued with gradual
   improvement in mental status
   - Hct and plts remain stable
   - EEG with no evidence of epileptiform activity so levetiracetam
   stopped
   Allergies:
   Ampicillin
   Nausea/Vomiting
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2149-12-2**] 08:00 AM
   Vancomycin - [**2149-12-3**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-12-4**] 07:39 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2149-12-4**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 95 (83 - 101) bpm
   BP: 111/82(65) {92/59(65) - 122/82(84)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
             Total In:
                                                                  1,932 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                    312 mL
                                                                     10 mL
   Blood products:
                                                                  1,100 mL
   Total out:
                                                                  2,775 mL
                                                                  1,480 mL
   Urine:
                                                                    175 mL
                                                                     80 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                   -843 mL
                                                                 -1,310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, opening eyes and responding
   appropriately to some commands
   Head, Ears, Nose, Throat: Normocephalic, crusted blood around right
   nare
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   low lung volumes
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, midline
   incision intact
   Skin:  Not assessed, Rash: abdominal/leg macular rash improving
   Extr: no edema, 2+ PT pulses
   Neurologic: Follows simple commands, oriented to self,
[**Hospital 2903**]
   Hospital
, and
[**Holiday **]
; (+) asterixis
   Labs / Radiology
   110 K/uL
   12.2 g/dL
   121 mg/dL
   4.9 mg/dL
   28 mEq/L
   3.4 mEq/L
   29 mg/dL
   108 mEq/L
   146 mEq/L
   35.3 %
   7.0 K/uL
        [image002.jpg]
                            [**2149-12-1**]  04:58 PM
                            [**2149-12-1**]  08:50 PM
                            [**2149-12-2**]  12:59 AM
                            [**2149-12-2**]  05:38 AM
                            [**2149-12-2**]  03:55 PM
                            [**2149-12-2**]  08:08 PM
                            [**2149-12-3**]  01:52 AM
                            [**2149-12-3**]  06:40 AM
                            [**2149-12-3**]  03:57 PM
                            [**2149-12-4**]  02:47 AM
   WBC
   8.6
   7.7
   8.1
   7.1
   7.7
   7.8
   7.4
   7.0
   Hct
   26.5
   27.3
   32.1
   31.9
   32.3
   33.2
   32.8
   35.3
   Plt
   51
   70
   67
   65
   69
   71
   65
   105
   106
   110
   Cr
   4.7
   5.5
   4.9
   Glucose
   119
   122
   121
   Other labs: PT / PTT / INR:18.0/36.7/1.6, CK / CKMB / Troponin-T:127//,
   ALT / AST:15/31, Alk Phos / T Bili:60/2.2, Differential-Neuts:77.2 %,
   Lymph:13.6 %, Mono:5.8 %, Eos:3.2 %, Fibrinogen:186 mg/dL, Lactic
   Acid:4.0 mmol/L, Albumin:2.8 g/dL, LDH:253 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   62 year old man with alcoholic cirrhosis, CKD on HD from hepatorenal
   syndrome, recent hemoperitoneum from traumatic liver biopsy requiring
   ex-lap, admitted with delirium and GI blood loss.
   1.       Delirium; likely multifactorial from hepatic encephalopathy,
   infection (abdominal cellulitis), small parietal bleed; no evidence of
   epileptiform activity
   - cont lactulose and rifaximin to treat hepatic encephalopathy
   - levetiracetam discontinued yesterday
   - MRI/MRA of brain when stable to evaluate parietal hemorrhage; no
   urgent need to perform since mental status is improving and it will not
   change acute mgmt
   2.       Alcoholic cirrhosis; encephalopathy rx as above; listed for
   transplant
   3.       Acute blood loss anemia from GI bleed; hemodynamically stable;
   no pRBCs needed in past 24 hrs; likely post-polypectomy bleed
   - cont to monitor [**Hospital1 **] Hct
   - no scope at this time since he seems to have stabilized and etiology
   likely post-polypectomy
   - goal plts >75k, INR<1.5
   4.       Hypoxemia; etiology somewhat unclear, though abdominal
   distension/low lung volumes likely contributing; small pulm AV shunting
   also seen on TTE
   - defer therapeutic paracentesis given agitation
   5.       Abdominal cellulitis
   - improving with vancomycin; cont for 7 day course; increased Vanco
   dose to 1250 mg due to low trough level
   6.       Rash; improved since stopping pip/tazo supporting the notion
   of drug rash
   - cont to monitor
   7.       CKD V secondary to hepatorenal syndrome
   -          renal input appreciated; may also need renal transplant
   8.       Hypernatremia
   - likely due to lack of PO intake; starting tube feeds with free H2O
   boluses today
   ICU Care
   Nutrition: start Nutren Renal with free water boluses today
   Glycemic Control:  n/a
   Lines:
   PICC Line - [**2149-12-1**] 05:02 AM
   Dialysis Catheter - [**2149-12-1**] 05:05 AM
   22 Gauge - [**2149-12-3**] 11:31 AM
   Prophylaxis:
   DVT: no heparin given GI/brain bleeds; pneumoboots
   Stress ulcer: ppi
   Communication:  Comments: with patient; brother [**Name (NI) 362**] is HCP
   [**Name (NI) 156**] status: Full code
   Disposition: call out to [**Hospital Ward Name 383**] 10 today for ongoing management of
   hepatic encephalopathy

2149-12-04 07:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > NGT replaced
   > Keppra d/c
ed per neuro as EEG c/w liver failure, no evidence of
   seizures
   > Now active on transplant list for liver and likely kidney
   Allergies:
   Ampicillin
   Nausea/Vomiting
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2149-12-3**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-12-4**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-12-4**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 95 (83 - 101) bpm
   BP: 111/82(65) {92/59(65) - 122/82(84)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
             Total In:
                                                                  1,932 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                    312 mL
                                                                     10 mL
   Blood products:
                                                                  1,100 mL
   Total out:
                                                                  2,775 mL
                                                                  1,480 mL
   Urine:
                                                                    175 mL
                                                                     80 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                   -843 mL
                                                                 -1,310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Decreased at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Improvement in macular-papular rash on abdomen
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, improved since yesterday
   [**Year (4 digits) 358**] / Radiology
   12.2 g/dL
   110 K/uL
   121 mg/dL
   4.9 mg/dL
   28 mEq/L
   3.4 mEq/L
   29 mg/dL
   108 mEq/L
   146 mEq/L
   35.3 %
   7.0 K/uL
        [image002.jpg]
                            [**2149-12-1**]  04:58 PM
                            [**2149-12-1**]  08:50 PM
                            [**2149-12-2**]  12:59 AM
                            [**2149-12-2**]  05:38 AM
                            [**2149-12-2**]  03:55 PM
                            [**2149-12-2**]  08:08 PM
                            [**2149-12-3**]  01:52 AM
                            [**2149-12-3**]  06:40 AM
                            [**2149-12-3**]  03:57 PM
                            [**2149-12-4**]  02:47 AM
   WBC
   8.6
   7.7
   8.1
   7.1
   7.7
   7.8
   7.4
   7.0
   Hct
   26.5
   27.3
   32.1
   31.9
   32.3
   33.2
   32.8
   35.3
   Plt
   51
   70
   67
   65
   69
   71
   65
   105
   106
   110
   Cr
   4.7
   5.5
   4.9
   Glucose
   119
   122
   121
   Other [**Year (4 digits) **]: PT / PTT / INR:18.0/36.7/1.6, CK / CKMB / Troponin-T:127//,
   ALT / AST:15/31, Alk Phos / T Bili:60/2.2, Differential-Neuts:77.2 %,
   Lymph:13.6 %, Mono:5.8 %, Eos:3.2 %, Fibrinogen:186 mg/dL, Lactic
   Acid:4.0 mmol/L, Albumin:2.8 g/dL, LDH:253 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   CXR: No change. Low lung volumes.
   Assessment and Plan
   Assessment and Plan
   62 yo male with hx of EtOH cirrhosis with acute change in mental status
   found to have 1 cm right parietal hemorrhage from a previous baseline
   which was A+O x 3 although it seems unlikely that the bleed is the
   source of altered MS [**First Name (Titles) 1327**] [**Last Name (Titles) 2854**] encephalopathy and renal failure as
   well as developing GI bleed.  Now MS improving and listed as active on
   transplant list.
   > Altered mental status: multiple etiologies with right parietal bleed
   1cm known, toxic-metabolic, infection, and encephalopathy are all
   possible.  His clinical picture was complicated by GI bleed, now
   inactive.  Keppra d/c
ed per neuro as EEG c/w [**Last Name (Titles) 2854**]/renal
   encelopathy, no evidence of seizures.
   -          Goal plts>75 INR < 1.5
   -          Cont Lactulose, rifaximin
   -          Cont thiamine, folate
   > GI bleed: drop in HCT with dark stools and inappropriate response to
   transfusion with neg lavage (was started on octreotide  empirically)
   with no hemodynamic instability. GI declined scope as patient stable
   and no longer bleeding. Likely due to history of recent polypectomy .
   -          Off octreotide
   -          Continue PPI [**Hospital1 **]
   -          Start TF, sips
   > Rash: the rash is c/w a a drug rash and pre-dates the dosing of the
   keppra and the Abx. He does have a hx of drug rash rxn to amoxicillin.
   Pip-tazo stopped, and rash improving.  Also suspect wound cellulitis.
   -          Continue Vanc
   > Hypoxemia:  has a baseline hypoxemia likely [**2-8**] functional splinting
   and baseline atelectasis at the lung bases due to ascites.
   -          Supportive O2 at present
   -          HOB elevation
   > Intracerebral hemorrhage: Neuro recommends MRI at some point in
   future. No evidence of focal deficits at this time.
   > ETOH cirrhosis: no evidence of SBP by [**Month/Day (2) **]. No varices by EGD on
   [**11-25**]. T bili decreasing.
   -          Listed as active on liver transplant
   > Renal failure: presumably 2/2 HRS now on HD. HD initiated [**12-2**]
   continues with minimal to no urine output. Cont phos binders.
   -          Will likely also be listed for kidney transplant
   >  Cellulitis: no SBP based on paracentesis and area of abdominal
   ?cellulitis (vs drug rash) is improving. Covering with only Vanco for
   cellulitis.  No indication for SBP treatment
   > Family updated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2149-12-1**] 05:02 AM
   Dialysis Catheter - [**2149-12-1**] 05:05 AM
   22 Gauge - [**2149-12-3**] 11:31 AM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer:  PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To floor on liver service ([**Hospital Ward Name 383**] 10)
   Total time spent: 35 minutes